US08648066B2
1,1-dimethylethyl 7-bromo-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (10 g, 30.5 mmol) was taken into hot ethanol (10 mL) followed by addition of 4 M hydrogen chloride in dioxane solution (2.1 eq, 16 mL) and the resulting solution was allowed to slowly cool to ambient temperature over one hour. An excess of ethyl ether was then added and the resulting slurry was filtered. The filter cake was washed with ethyl ether and dried to give 7-bromo-2,3,4,5-tetrahydro-1,4-benzoxazepine hydrochloride (7.9 g, 98% yield) as a colorless crystalline solid. MS (EI) for C9H10NOBr: 229 (MH+).

reactant | 1,1-dimethylethyl 7-bromo-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 30.5 mmol, 10 g | BrC=1C=CC2=C(CN(CCO2)C(=O)OC(C)(C)C)C1 | C14H18BrNO3
reactant | ethanol | 10 mL | C(C)O | C2H6O
reactant | hydrogen chloride | 4 M | Cl | ClH
reactant | dioxane | 16 mL, 2.1 eq | O1CCOCC1 | C4H8O2
solvent | ethyl ether | C(C)OCC | C4H10O
product | 7-bromo-2,3,4,5-tetrahydro-1,4-benzoxazepine hydrochloride | 7.9 g, 98% yield | Cl.BrC=1C=CC2=C(CNCCO2)C1 | InChI=1S/C9H10BrNO.ClH/c10-8-1-2-9-7(5-8)6-11-3-4-12-9;/h1-2,5,11H,3-4,6H2;1H
